US05792866
1 g of 95% sodium hydride was placed in a two-neck flask equipped with a magnetic stirring bar, a reflux condenser with an argon inlet and a rubber septum. To it was added 40 ml of dimethylformamide (DMF) followed by 1.26 g of melamine. The contents were stirred at room temperature for 15 minutes and then 8.56 g of diphenyl carbonate was added to the flask. The reaction mixture was stirred at room temperature for 4 hours and then poured, with stirring, into 500 ml of 5% aq HCl. A white precipitate was formed which was filtered, washed with water, and dried under reduced pressure to give 4.4 g of crude 2,4,6-tris-phenoxycarbonylamino-1,3,5-triazine. The structure was confirmed by thin layer chromatography (TLC), 1H NMR and mass spectroscopy.

reactant | sodium hydride | 1 g | [H-].[Na+]
reactant | melamine | 1.26 g | N1=C(N)N=C(N)N=C1N | C3H6N6
reactant | diphenyl carbonate | 8.56 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | HCl | 500 ml | Cl | ClH
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2,4,6-tris-phenoxycarbonylamino-1,3,5-triazine | 4.4 g | O(C1=CC=CC=C1)C(=O)NC1=NC(=NC(=N1)NC(=O)OC1=CC=CC=C1)NC(=O)OC1=CC=CC=C1 | C24H18N6O6
